US04075165
14.3 g of the 5-amino-5-methyl-3-heptanone thus obtained were dissolved in 100 ml of methanol, and 10.0 g of cyclohexanone and 10.0 g of ammonium bromide were added to the resulting solution. Dry ammonia was then introduced into the solution at room temperature for a period of 6 hours. After allowing the solution to stand overnight, 10.0 g of potassium carbonate were added and the methanol was then removed by distillation under reduced pressure. The residue was extracted with benzene, washed with water and dried over potassium carbonate. The benzene was then removed and the residue was distilled under reduced pressure, giving 14.0 g of 2,4-diethyl-4-methyl-1,5-diazaspiro[5.5]-undec-1-ene (bp 93° - 94° C/1.5 mmHg).

reactant | 5-amino-5-methyl-3-heptanone | 14.3 g | NC(CC(CC)=O)(CC)C | C8H17NO
reactant | cyclohexanone | 10.0 g | C1(CCCCC1)=O | C6H10O
reactant | ammonium bromide | 10.0 g | [Br-].[NH4+]
reactant | ammonia | N | H3N
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 2,4-diethyl-4-methyl-1,5-diazaspiro[5.5]-undec-1-ene | 14.0 g | C(C)C1=NC2(NC(C1)(C)CC)CCCCC2 | C14H26N2
